US05706829
A stirred solution of 75 g. of 2-amino-2'- nitrobenzophenone in 700 ml. of hot concentrated hydrochloric acid is cooled to 0° and a solution of 21.5 g. of sodium nitrite in 50 ml. of water is added in the course of 3 hours. The temperature of the suspension is kept at 2-7° during the addition. The resulting clear solution is poured into a stirred solution of 37 g. of cuprous chloride in 350 ml. of hydrochloric acid 1:1. The solid which has formed after a few minutes is filtered off, washed with water and recrystallized from ethanol. Crystals of 2-chloro-2'-nitrobenzophenone melting at 76-79° are obtained.

reactant | 2-amino-2'- nitrobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C13H10N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-chloro-2'-nitrobenzophenone | ClC1=C(C(=O)C2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C13H8ClNO3
